US03957763
Following the procedure of Example 17, 7-(3-ethyl-4,7-dimethyl-2,6-octadienyloxy)-chromane and peracetic acid are reacted to form 7-(6,7-epoxy-3-ethyl-4,7-dimethyl-2-octenyloxy)-chromane, nD20 = 1.5287.

reactant | 7-(3-ethyl-4,7-dimethyl-2,6-octadienyloxy)-chromane | C(C)C(=CCOC1=CC=C2CCCOC2=C1)C(CC=C(C)C)C | C21H30O2
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
product | 7-(6,7-epoxy-3-ethyl-4,7-dimethyl-2-octenyloxy)-chromane | O1C(CC(C(=CCOC2=CC=C3CCCOC3=C2)CC)C)C1(C)C | C21H30O3
